US04960775
A stirred suspension of sodium hydride (80% dispersion in oil, 112 mg; 3.7 mmol) in dry tetrahydrofuran (15 ml) was treated with ethyl acetoacetate (0.43 g) under an atmosphere of argon, maintaining the temperature at -10° C. The mixture was stirred for 30 minutes and then it was treated with a solution of butyl lithium in hexane (2.5M; 1.38 ml), still maintaining the temperature at -10° C. The mixture was stirred for a further period of 20 minutes and then it was treated dropwise with a solution of (E)-3-(3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazin-2-yl)propenal (0.56 g) in tetrahydrofuran (5 ml) at -10° C., and the resulting mixture was stirred at -10° C. for 1 hour. The reaction mixture was then quenched at -10° C. by treatment with saturated aqueous ammonium chloride solution (15 ml). The mixture was allowed to warm to the ambient temperature and then it was partitioned between water (20 ml) and diethyl ether (50 ml). The organic layer was separated and the aqueous layer was extracted with diethyl ether (50 ml). The combined organic layers were dried over magnesium sulphate, evaporated and subjected to flash chromatography on silica gel, using as eluant a mixture of petroleum ether (b.p. 40°-60° C.) and diethyl ether (3:1 v/v), to give ethyl (E)-5-hydroxy-7-(3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazin-2-yl)-3-oxohept-6-enoate (0.33 g) in the form of an orange oil. [NMR (in a mixture of CDCl3 and D2O): 1.27 (3H, t, J=7 Hz), 1.54 (6H, d, J=7 Hz), 2.52-2.62 (2H, m), 3.44 (2H, s), 3.78 (1H, septet, J=7 Hz), 4.21 (2H, q, J= 7 Hz), 4.50-4.62 (1H, m), 5.3 (1H, dd, J=16 Hz, 7 Hz), 6.65 (1H, dd, J=16 Hz, 1 Hz), 7.22-7.62 (9H, m), 8.24 (1H, s)].

reactant | sodium hydride | 3.7 mmol, 112 mg | [H-].[Na+]
reactant | ethyl acetoacetate | 0.43 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | butyl lithium | C(CCC)[Li]
reactant | (E)-3-(3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazin-2-yl)propenal | 0.56 g | C(C)(C)C1=C(C(=C2N1N=CC1=CC=CC=C21)C2=CC=CC=C2)/C=C/C=O | C23H20N2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.5M, 1.38 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | ethyl (E)-5-hydroxy-7-(3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazin-2-yl)-3-oxohept-6-enoate | 0.33 g | OC(CC(CC(=O)OCC)=O)\C=C\C=1C(=C2N(N=CC3=CC=CC=C23)C1C(C)C)C1=CC=CC=C1 | C29H30N2O4
